US04737507
Sodium metal (11.5 g, 0.5 mol) was dissolved in dry ethanol (225 ml) at ambient temperature (20° C.). Ethyl cyanoacetate (60 g, 0.53 mol) was added dropwise with stirring at ambient temperature. To the resulting solution was added dropwise, with stirring, mesityl oxide, and the mixture was heated under reflux for 4 hours. After cooling, the mixture was extracted with diethyl ether to remove any unreacted starting material and acidified with 2M aqueous hydrochloric acid. The brown oil which separated out was extracted into diethyl ether, dried (Na2SO4) evaporated and triturated with 40°-60° C. petroleum ether to give a pale yellow solid, which on recrystallisation from diethyl ether gave 4-cyano-5,5-dimethyl-1,3-cyclohexanedione as a white crystalline solid (48.6 g, 58.9%) m.p. 130°-132° C.

reactant | Sodium | 0.5 mol, 11.5 g | [Na] | Na
reactant | Ethyl cyanoacetate | 0.53 mol, 60 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | 4-cyano-5,5-dimethyl-1,3-cyclohexanedione | 48.6 g, 58.9% | C(#N)C1C(CC(CC1(C)C)=O)=O | C9H11NO2
